US04180679
Preparation of 2-{{4-[(1-Ethylpropyl)amino]-2-methyl-3,5-dinitrobenzyl}oxy }ethanol.
3-Aminopentane (1.74 g; 0.02 mol) is added to a solution of 2-(4-chloro-2-methyl-3,5-dinitrobenzyloxy)ethanol (0.5 g; 1.7×10-3 mol) in toluene. The reaction mixture is heated at reflux for 3 hours. Analysis by tlc (silica gel plate; eluent: methanol-benzene in a 1:9 ratio) shows the reaction to be complete. The reaction mixture is poured into 10% hydrochloric acid and extracted with methylene chloride. The organic phase is dried over calcium sulfate; and evaporated in vacuo to afford 0.54 g (91.8%) of an orange-colored oil.

reactant | 3-Aminopentane | 0.02 mol, 1.74 g | NC(CC)CC | C5H13N
reactant | 2-(4-chloro-2-methyl-3,5-dinitrobenzyloxy)ethanol | 1.7×10-3 mol, 0.5 g | ClC1=C(C(=C(COCCO)C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C10H11ClN2O6
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-{{4-[(1-Ethylpropyl)amino]-2-methyl-3,5-dinitrobenzyl}oxy }ethanol | 0.54 g, 91.8% | C(C)C(CC)NC1=C(C(=C(COCCO)C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C15H23N3O6
